US07495027B2
Preparation of 5-{Hydroxy-[2-(trifluoromethyl)phenyl]methyl}4-methoxy-5H-furan-2-one
A mixture of 4-methoxy-5H-furan-2-one (2.00 g, 17.5 mmol), 2-(trifluoromethyl)-benzaldehyde (3.05 g, 17.5 mmol) and lithium hydroxide monohydrate (0.148 g, 3.53 (mmol) in acetonitrile is stirred at room temperature for 0.5 h, treated with water, stirred for 0.5 h and concentrated in vacuo. The resultant residue is diluted with water and filtered. The filtercake is dried in vacuo to give the title product as a white solid, 3.00 g (59% yield), mp 126-128° C., identified by NMR and mass spectral analyses.

reactant | 4-methoxy-5H-furan-2-one | 17.5 mmol, 2.00 g | COC1=CC(OC1)=O | C5H6O3
reactant | 2-(trifluoromethyl)-benzaldehyde | 17.5 mmol, 3.05 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-{Hydroxy-[2-(trifluoromethyl)phenyl]methyl}4-methoxy-5H-furan-2-one | 59% yield | OC(C1C(=CC(O1)=O)OC)C1=C(C=CC=C1)C(F)(F)F | C13H11F3O4
